US07598391B2
4-[3-{5-[4-(2-Methoxycarbonyl-acetyl)-piperazin-1-ylmethyl]-thiazol-2-yl}-1-(4-methyl-cyclohexyl)-ureido]-piperidine-1-carboxylic acid tert-butyl ester
Prepared as described in general procedure (P) using 4-[3-(5-formyl-thiazol-2-yl)-1-(4-methyl-cyclohexyl)-ureido]-piperidine-1-carboxylic acid tert-butyl ester (68 mg, 0.15 mmol), 3-oxo-3-piperazin-1-yl-propionic acid methyl ester hydrochloride (54 mg, 0.19 mmol) and sodium triacetoxyborohydride (38 mg, 0.18 mmol) to afford 23 mg (25%) of the desired product after purification.

reactant | 4-[3-(5-formyl-thiazol-2-yl)-1-(4-methyl-cyclohexyl)-ureido]-piperidine-1-carboxylic acid tert-butyl ester | 0.15 mmol, 68 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCC(CC1)C | C22H34N4O4S
reactant | 3-oxo-3-piperazin-1-yl-propionic acid methyl ester hydrochloride | 0.19 mmol, 54 mg | Cl.COC(CC(N1CCNCC1)=O)=O
reactant | sodium triacetoxyborohydride | 0.18 mmol, 38 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 4-[3-{5-[4-(2-Methoxycarbonyl-acetyl)-piperazin-1-ylmethyl]-thiazol-2-yl}-1-(4-methyl-cyclohexyl)-ureido]-piperidine-1-carboxylic acid tert-butyl ester | 23 mg, 25% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)CN1CCN(CC1)C(CC(=O)OC)=O)C1CCC(CC1)C | C30H48N6O6S
